US06518423B1
To a solution of 2.0 g of 3-[1-(benzyloxycarbonyl)-piperidin-4-yl]phenylacetaldehyde and 1.0 g of sodium dihydrogenphosphate in 10 ml of water and 50 ml of dimethyl sulfoxide was added a solution of 2.0 g of sodium chlorite in water (10 ml) and the resulting mixture was reacted at room temperature for 20 minutes. After adding water, the reaction mixture was extracted with ethyl acetate, washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent under reduced pressure, 2.0 g of crude 3-[1-(benzyloxycarbonyl)piperidin-4-yl]phenylacetic acid was obtained as a colorless oily substance. To a solution of 2.0 g of this oily substance in 50 ml of methanol was added 0.47 ml of thionyl chloride at 0° C. and the resulting mixture was reacted at room temperature for 2 hours. The reaction mixture was distilled off under reduced pressure and the residue was purified by silica gel column chromatography (eluted with n-hexane/ethyl acetate) to thereby give 1.2 g of the title compound as a yellow oily substance.

reactant | 3-[1-(benzyloxycarbonyl)-piperidin-4-yl]phenylacetaldehyde | 2.0 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1C=C(C=CC1)CC=O | C21H23NO3
reactant | sodium dihydrogenphosphate | 1.0 g | P(=O)(O)(O)[O-].[Na+]
reactant | sodium chlorite | 2.0 g | Cl(=O)[O-].[Na+]
solvent | water | 10 ml | O | H2O
solvent | dimethyl sulfoxide | 50 ml | CS(=O)C | C2H6OS
solvent | water | 10 ml | O | H2O
product | 3-[1-(benzyloxycarbonyl)piperidin-4-yl]phenylacetic acid | 2.0 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)C=1C=C(C=CC1)CC(=O)O | C21H23NO4
